US07601716B2
1-[1-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoyl)piperidin-4-yl]-1,3-dihydrobenzoimidazol-2-one
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 1,3-dihydro-1-(4-piperidinyl)benzoimidazol-2-one as in General Procedure 10 to give the title compound. LCMS: m/z=647.02 (M+H+); retention time=0.83 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 1,3-dihydro-1-(4-piperidinyl)benzoimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
product | 1-[1-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoyl)piperidin-4-yl]-1,3-dihydrobenzoimidazol-2-one | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)N2CCC(CC2)N2C(NC4=C2C=CC=C4)=O)C=CC3)C1)C(F)(F)F | C34H30ClF3N6O2
